US07989485B2
To an ice cooled solution of N-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yl)-2-morpholinoacetamide (0.1 g, 0.28 mmol) in dry tetrahydrofurane (4 ml), in a dry nitrogen atmosphere, was dropwise added a 2M solution of borane dimethylsulfide in THF (0.7 ml, 1.4 mmol). The solution was slowly warmed to reflux, refluxed 4 hrs and additionally stirred at room temperature for 16 hrs. The mixture was ice cooled while water (2 ml) and 6M HCl (0.5 ml) cautiously added and, then, refluxed for 2 hrs. Solvents were coevaporated with methanol to dryness in vacuo. The crude residue was partitioned between 10% NaOH aqueous solution and ethyl acetate. The combined organic phases were washed with water, dried over sodium sulphate, filtered and evaporated to dryness yielding 94 mg of crude compound which was purified by column chromatography on silica gel (eluent:petroleum ether/ethyl acetate 50:50 to ethylacetate 100%). 1-(3,4-Dichlorophenyl)-N-(2-morpholinoethyl)-1H-pyrazol-3-amine (53 mg) was obtained as an oil.

reactant | N-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yl)-2-morpholinoacetamide | 0.28 mmol, 0.1 g | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)NC(CN1CCOCC1)=O | C15H16Cl2N4O2
reactant | borane dimethylsulfide | CSC.B
reactant | water | 2 ml | O | H2O
reactant | HCl | 6M, 0.5 ml | Cl | ClH
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | THF | 1.4 mmol, 0.7 ml | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-(3,4-Dichlorophenyl)-N-(2-morpholinoethyl)-1H-pyrazol-3-amine | 53 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)NCCN1CCOCC1 | C15H18Cl2N4O
